US05434292
Forty-five (45) grams of 1-[3-chloro-4-(2-oxocyclohexane-1-yl methyl)phenyl]ethylbromide were dissolved in 200 ml of benzene and then incorporated with 12.7 g of ethylene glycol and 0.12 g of p-toluenesulfonic acid, after which the whole was refluxed under agitation for 4 hours. After the end of the reaction, the reaction mixture was washed with water, an aqueous solution of sodium hydrogen carbonate and water in this order. Then, the organic layer obtained was dried and thereafter freed of the solvent at a reduced pressure thereby to obtain 51 g of 1-[3-chloro-4-(2,2-ethylenedioxycyclohexane-1-yl methyl)phenyl]ethylbromide.

reactant | 1-[3-chloro-4-(2-oxocyclohexane-1-yl methyl)phenyl]ethylbromide | ClC=1C=C(C=CC1CC1C(CCCC1)=O)C(C)Br | C15H18BrClO
reactant | ethylene glycol | 12.7 g | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | 0.12 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 1-[3-chloro-4-(2,2-ethylenedioxycyclohexane-1-yl methyl)phenyl]ethylbromide | 51 g | ClC=1C=C(C=CC1CC1C2(CCCC1)OCCO2)C(C)Br | C17H22BrClO2
